US08865698B2
Step E: Preparation of N-(5-(2-(3-fluorophenyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide:
To a DCM (0.7 mL) solution of 5-(2-(3-fluorophenyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (25 mg, 0.08 mmol) was added CDI (20 mg, 0.12 mmol) at ambient temperature in one portion. After stirring one hour, azetidin-3-ol hydrochloride (20 mg, 0.12 mmol) was added in one portion, followed by addition of DIEA (0.028 mL, 0.16 mmol). The reaction was stirred for 30 minutes before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 0 to 60% acetonitrile/water to yield the final product as a yellowish oil (18 mg, 55% yield). MS (apci) m/z=411.2 (M+H).

reactant | 5-(2-(3-fluorophenyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.08 mmol, 25 mg | FC=1C=C(C=CC1)C1(N(CCC1)C1=NC=2N(C=C1)N=CC2N)C | C17H18FN5
reactant | CDI | 0.12 mmol, 20 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | azetidin-3-ol hydrochloride | 0.12 mmol, 20 mg | Cl.N1CC(C1)O
reactant | DIEA | 0.16 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.7 mL | C(Cl)Cl | CH2Cl2
product | N-(5-(2-(3-fluorophenyl)-2-methylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide | 18 mg, 55% yield | FC=1C=C(C=CC1)C1(N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)O)C | C21H23FN6O2
